US06521643B1
A suspension of 2-fluoro-4-methylpyridine (1.11 g), 3-nitrophenol (1.67 g) and potassium carbonate (1.80 g) in N,N-dimethylformamide (10 ml) was stirred at 130° C. for 24 hours. After cooling, the mixture was poured into water and stirred for 30 minutes. The precipitate was collected by filtration and dried to give 3-(4-methylpyridin-2-yloxy)-nitrobenzene (935 mg).

reactant | 2-fluoro-4-methylpyridine | 1.11 g | FC1=NC=CC(=C1)C | C6H6FN
reactant | 3-nitrophenol | 1.67 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | potassium carbonate | 1.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(4-methylpyridin-2-yloxy)-nitrobenzene | 935 mg | CC1=CC(=NC=C1)OC=1C=C(C=CC1)[N+](=O)[O-] | C12H10N2O3
